US07030124B2
4-((alpha-R)-alpha-((2S,5R)-2,5-Dimethyl-1-piperazinyl)-3-trifluoromethylsulfonyloxybenzyl)-N,N-diethylbenzamide (527.6 mg, 1.0 mmol) was dissolved in acetonitrile (4.0 mL) and sodium iodide (30 mg, 0.2 mmol) added. The suspension was stirred during the addition of triethylamine (800 μL (580.8 mg), 5.74 mmol), followed by 4-fluorobenzyl bromide (249 μL, 378 mg, 2.0 mmol). The reaction mixture was sealed under nitrogen and stirred overnight at room temperature. The reaction mixture was evaporated to dryness and the residue dissolved in ethyl acetate (10 mL). The organic solution was washed with saturated aqueous sodium bicarbonate solution (2×5 mL) and saturated sodium chloride solution (5 mL), dried over anhydrous sodium sulfate, and evaporated to a golden oil (a single spot on silica gel, EM60F264, 2% NH4OH in ethyl acetate, Rf=0.86). This intermediate 4-((alpha-R)-alpha-((2S,5R)-2,5-Dimethyl-4-(4-fluorobenzyl)-1-piperazinyl)-3-trifluoromethylsulfonyloxybenzyl)-N,N-diethylbenzamide (608.9 mg) was used without further purification. The oil was dissolved in ethanol (8 mL) and aqueous 2.5 M (10%) sodium hydroxide solution (5 mL, 12.5 mmol) was added. The reaction mixture was stirred at room temperature for 3.5 h, then the ethanol was removed by evaporation. The oily suspension of the sodium salt was clarified by the addition of water (7.5 mL), and the pH of the solution adjusted to 8.5–9 by the passage of gaseous carbon dioxide (from dry ice). The copious white precipitate was collected by filtration, washed well with water, and dried under vacuum (2 mm Hg) at room temperature overnight to yield 4-((alpha-R)-alpha-((2S,5R)-2,5-dimethyl-4-(4-fluorobenzyl)-1-piperazinyl)-3-hydroxybenzyl)-N,N-diethylbenzamide as a white solid (423.6 mg, 84%). Calc. for C31H38FN3O2 C, 73.93; H, 7.61; N, 8.34. Found C, 73.91; H, 7.65; N, 8.21%. 1H NMR (CDCl3, 300 MHz); δ 1.05 (d, J=6.3 Hz, 3H); 1.07 (d, J=6.3 Hz, 3H); 1.11 (br m, 3H); 1.25 (br m, 3H); 1.97 (m, 2H); 2.53 (br m, 1H); 2.57 (br m, 1H); 2.61 (dd, J=9, 2.6 Hz, 1H); 2.65 (dd, J=9, 2.4 Hz, 1H); 3.14 (d, J=13 Hz, 1H); 3.28 (br m, 2H); 3.54 (br m, 2H); 3.87 (d, J=13 Hz, 1H); 5.13 (s, 1H); 6.62 (s, 1H); 6.70 (m, 2H); 6.96 (t, J=8.5 Hz, 2H); 7.13 (t, J=7.8 Hz, 1H); 7.24 (m, 2H); 7.28 (d, J=8.2 Hz, 2H); 7,43 (d, J=8.1 Hz, 2H).

reactant | 4-((alpha-R)-alpha-((2S,5R)-2,5-Dimethyl-1-piperazinyl)-3-trifluoromethylsulfonyloxybenzyl)-N,N-diethylbenzamide | 1.0 mmol, 527.6 mg | C[C@@H]1N(C[C@H](NC1)C)[C@@H](C1=CC(=CC=C1)OS(=O)(=O)C(F)(F)F)C1=CC=C(C(=O)N(CC)CC)C=C1 | C25H32F3N3O4S
reactant | sodium iodide | 0.2 mmol, 30 mg | [I-].[Na+]
reactant | triethylamine | 5.74 mmol, 800 μL, 580.8 mg | C(C)N(CC)CC | C6H15N
reactant | 4-fluorobenzyl bromide | 2.0 mmol, 249 μL, 378 mg | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | sodium hydroxide | 12.5 mmol, 2.5 M, 5 mL | [OH-].[Na+]
solvent | acetonitrile | 4.0 mL | C(C)#N | C2H3N
product | 4-((alpha-R)-alpha-((2S,5R)-2,5-dimethyl-4-(4-fluorobenzyl)-1-piperazinyl)-3-hydroxybenzyl)-N,N-diethylbenzamide | 423.6 mg, 84% | C[C@@H]1N(C[C@H](N(C1)CC1=CC=C(C=C1)F)C)[C@@H](C1=CC(=CC=C1)O)C1=CC=C(C(=O)N(CC)CC)C=C1 | C31H38FN3O2
